US07951810B2
Step a: [(3aR,4R,6R,6aS)-6-(6-iodo-9H-purin-9-yl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl]methyl acetate
To a solution of [(3aR,4R,6R,6aS)-6-(6-chloro-9H-purin-9-yl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl]methyl acetate (185 mg, 0.45 mmol) in 2-butanone (8 mL) at 0° C. was added NaI (1.36 g, 9.08 mmol) followed by trifluoroacetic acid (174.8 μL, 2.27 mmol). The reaction was stirred for 3 hours at 0° C., quenched with saturated aq NaHCO3 and extracted with DCM. The organic phase was concentrated and the residue was purified by flash chromatography (0 to 100% EtOAc/DCM) to obtain the title compound (140 mg, 67%).

reactant | [(3aR,4R,6R,6aS)-6-(6-chloro-9H-purin-9-yl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl]methyl acetate | 0.45 mmol, 185 mg | C(C)(=O)OC[C@H]1C[C@H]([C@@H]2OC(O[C@@H]21)(C)C)N2C1=NC=NC(=C1N=C2)Cl | C16H19ClN4O4
reactant | NaI | 9.08 mmol, 1.36 g | [Na+].[I-]
reactant | trifluoroacetic acid | 2.27 mmol, 174.8 μL | FC(C(=O)O)(F)F | C2HF3O2
solvent | 2-butanone | 8 mL | CC(CC)=O | C4H8O
product | [(3aR,4R,6R,6aS)-6-(6-iodo-9H-purin-9-yl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl]methyl acetate | 140 mg, 67% | C(C)(=O)OC[C@H]1C[C@H]([C@@H]2OC(O[C@@H]21)(C)C)N2C1=NC=NC(=C1N=C2)I | C16H19IN4O4
